US04136113
To a reaction vessel was added 5 grams (0.02 moles) of p-toluic anhydride dissolved in 150 ml of ethyl ether. The reaction vessel contents were heated to reflux which was maintained while 3.4 grams (0.02 moles) of silicon tetrachloride were added. The reactor contents refluxed for 30 minutes after addition of the silicon tetrachloride. Then the ether was distilled off leaving a white solid. This was further distilled under vacuum which left the white solid in the overhead condenser. No toluoyl chloride was obtained.

reactant | p-toluic anhydride | 0.02 moles, 5 grams | C1(=CC=C(C=C1)C(=O)OC(=O)C1=CC=C(C=C1)C)C | C16H14O3
reactant | silicon tetrachloride | 0.02 moles, 3.4 grams | [Si](Cl)(Cl)(Cl)Cl | Cl4Si
reactant | ethyl ether | 150 ml | C(C)OCC | C4H10O
product | toluoyl chloride | C=1(C(=CC=CC1)C(=O)Cl)C | C8H7ClO
